### PR TITLE
[Merged by Bors] - refactor: Redefine 3AP-free sets

### PR DESCRIPTION
**Pull request by YaelDillies**
The current definition allows `{0, 1}` as a 3AP-free set in `ZMod 2`, which is really inconvenient from the point of view of interfacing with corners. This PR redefines it so that  `0, 1, 0` in `ZMod 2` is a 3AP and `{0, 1}` is not 3AP-free.

Also take the opportunity to reorder the binders to a more convenient fashion, to move the heavy result `threeAPFree_sphere` to `Combinatorics.Additive.Behrend` where it is used (it won't be used anywhere else) and to drop `rothNumberNat_isBigO_id` since it's a trivial result that pulls in a bunch of analysis.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by TFBloom — APPROVED** [review]
As a mathematician, I approve these changes. This is a more general and robust definition of 3AP. If everything is OK Lean-wise I recommend this be merged.

File: Mathlib/Combinatorics/Additive/AP/Three/Defs.lean [hunk 1]
```diff
@@ -103,40 +100,41 @@ theorem threeGPFree_singleton (a : α) : ThreeGPFree ({a} : Set α) :=
...
   funext fun i => hs i (ha i trivial) (hb i trivial) (hc i trivial) <| congr_fun h i
 #align mul_salem_spencer_pi threeGPFree_pi
 #align add_salem_spencer_pi threeAPFree_pi
 
 end Monoid
 
 section CommMonoid
+variable [CommMonoid α] [CommMonoid β] {s A : Set α} {t B : Set β} {f : α → β} {a : α}
 
 variable [CommMonoid α] [CommMonoid β] {s : Set α} {a : α}
```
Comment (Ruben-VandeVelde) [inline Mathlib/Combinatorics/Additive/AP/Three/Defs.lean:121]: Something went wrong with the variables here

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

File: Mathlib/Combinatorics/Additive/AP/Three/Defs.lean [hunk 2]
```diff
@@ -146,73 +144,56 @@ section CancelCommMonoid
...
-  rw [hs hb hc hd (mul_right_cancel h)]
-#align mul_salem_spencer.mul_right ThreeGPFree.mul_right
-#align add_salem_spencer.add_right ThreeAPFree.add_right
+#noalign mul_salem_spencer.mul_right
+#noalign add_salem_spencer.add_right
 
 @[to_additive]
-theorem threeGPFree_mul_left_iff : ThreeGPFree ((a * ·) '' s) ↔ ThreeGPFree s :=
-  ⟨fun hs b c d hb hc hd h =>
+theorem threeGPFree_smul_set : ThreeGPFree ((a * ·) '' s) ↔ ThreeGPFree s :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/Combinatorics/Additive/AP/Three/Defs.lean:186]: This is not about smul

File: Mathlib/Combinatorics/Additive/AP/Three/Defs.lean [hunk 3]
```diff
@@ -236,77 +217,39 @@ section CancelCommMonoidWithZero
 
 variable [CancelCommMonoidWithZero α] [NoZeroDivisors α] {s : Set α} {a : α}
 
-theorem ThreeGPFree.mul_left₀ (hs : ThreeGPFree s) (ha : a ≠ 0) :
+theorem ThreeGPFree.smul_set₀ (hs : ThreeGPFree s) (ha : a ≠ 0) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Combinatorics/Additive/AP/Three/Defs.lean:220]: Neither is this

File: Mathlib/Combinatorics/Additive/AP/Three/Defs.lean [hunk 4]
```diff
@@ -429,11 +372,9 @@ theorem mulRothNumber_map_mul_left :
     obtain ⟨u, hus, rfl⟩ := hus
     rw [coe_map] at hu
     rw [← hcard, card_map]
-    exact (threeGPFree_mul_left_iff.1 hu).le_mulRothNumber hus
+    exact (threeGPFree_smul_set.1 hu).le_mulRothNumber hus
   · obtain ⟨u, hus, hcard, hu⟩ := mulRothNumber_spec s
-    have h : ThreeGPFree (u.map <| mulLeftEmbedding a : Set α) := by
-      rw [coe_map]
-      exact hu.mul_left
+    have h : ThreeGPFree (u.map <| mulLeftEmbedding a : Set α) := by rw [coe_map]; exact hu.smul_set
```
Comment (Ruben-VandeVelde) [inline Mathlib/Combinatorics/Additive/AP/Three/Defs.lean:377]: This also needs more thinking than I'd like to identify mul and smul

**Review by Ruben-VandeVelde — CHANGES_REQUESTED** [review]
This also contains a number of mul/smul changes that are not explained in the pr summary, though the summary already explains several orthogonal changes. I think a split would be helpful to clarify what's going on

**Comment by YaelDillies** [comment]
Ran out of Lean time for today. Will look tomorrow.

File: Mathlib/Combinatorics/Additive/AP/Three/Defs.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/AP/Three/Defs.lean:121]: Fixed in #12546

File: Mathlib/Combinatorics/Additive/AP/Three/Defs.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/AP/Three/Defs.lean:186]: Fixed in #12546

File: Mathlib/Combinatorics/Additive/AP/Three/Defs.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/AP/Three/Defs.lean:220]: Fixed in #12546

File: Mathlib/Combinatorics/Additive/AP/Three/Defs.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Additive/AP/Three/Defs.lean:377]: This is like that simply because I need something of the form `u.map something` to apply my lemmas
